US04804665
8-Benzyloxycarbonyl-2-nitromethyloxy-2,8-diazaspiro[4,5]decane-1,3-dione
Employing 8-benzyloxycarbonyl-2-hydroxy-2,8-diazaspiro[4,5]decane-1,3-dione (0.64 g) and bromonitromethane (140 μl), reaction was conducted in the same manner as in Example 40 to obtain 0.25 g of a colorless solid, m.p. 137° to 139° C.

reactant | 8-benzyloxycarbonyl-2-hydroxy-2,8-diazaspiro[4,5]decane-1,3-dione | 0.64 g | C(C1=CC=CC=C1)OC(=O)N1CCC2(CC(N(C2=O)O)=O)CC1 | C16H18N2O5
reactant | bromonitromethane | 140 μl | BrC[N+](=O)[O-] | CH2BrNO2
product | 8-Benzyloxycarbonyl-2-nitromethyloxy-2,8-diazaspiro[4,5]decane-1,3-dione | 0.25 g | C(C1=CC=CC=C1)OC(=O)N1CCC2(CC(N(C2=O)OC[N+](=O)[O-])=O)CC1 | C17H19N3O7
